US07605176B2
IX.1.b: 2-(4-dimethylaminomethylphenyl)ethylamine
3.60 g (20.7 mmol) of (4-dimethylaminomethylphenyl)acetonitrile (IX.1.a) is dissolved in 50 mL of methanolic ammonia and hydrogenated for 5 hours at 50° C. at a pressure of 3 bar with hydrogen and 0.45 g of Raney nickel as catalyst. Then the catalyst is filtered off and the solvent is eliminated. Yield: 3.60 g (98% of theory); Rf value: 0.20 (silica gel, methylene chloride/methanol=9:1); C11H18N2; EII mass spectrum: m/z=179 [M+H]+.

reactant | (4-dimethylaminomethylphenyl)acetonitrile | 20.7 mmol, 3.60 g | CN(C)CC1=CC=C(C=C1)CC#N | C11H14N2
solvent | ammonia | 50 mL | N | H3N
catalyst | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.45 g | [Ni] | Ni
product | 2-(4-dimethylaminomethylphenyl)ethylamine | CN(C)CC1=CC=C(C=C1)CCN | C11H18N2
